US04788130
0.21 Gram of 4-(3-chlorophenyl)-1-(2,3-epoxypropyl)piperazine was added to a solution containing 0.21 g of 1-amino-2,3-dihydro-7-hydroxy-2,2,4,6-tetramethyl-1H-indene hydrochloride in 10 ml of ethanol solution, and the mixture was refluxed for 5 hours. After the reaction was completed, the reaction mixture was concentrated by removing the solvent under a reduced pressure, the residue thus obtained was alkalified with 10%-sodium bicarbonate aqueous solution, then extracted with 100 ml of methylene chloride. The extract was washed three times with 100 ml of water each time, then dried with anhydrous magnesium sulfate. The methylene chloride extract was concentrated by removing the solvent under a reduced pressure, and the residue was purified by a silica gel column chromatography (eluent: ethyl acetate:n-hexane=1:1) to obtain 0.21 g of 1-{3-[4-(3-chlorophenyl)-1-piperazinyl]-2-hydroxypropylamino}-2,3-dihydro-7-hydroxy-2,2,4,6-tetramethyl-1H-indene.

reactant | 4-(3-chlorophenyl)-1-(2,3-epoxypropyl)piperazine | ClC=1C=C(C=CC1)N1CCN(CC1)CC1CO1 | C13H17ClN2O
reactant | 1-amino-2,3-dihydro-7-hydroxy-2,2,4,6-tetramethyl-1H-indene hydrochloride | 0.21 g | Cl.NC1C(CC2=C(C=C(C(=C12)O)C)C)(C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-{3-[4-(3-chlorophenyl)-1-piperazinyl]-2-hydroxypropylamino}-2,3-dihydro-7-hydroxy-2,2,4,6-tetramethyl-1H-indene | 0.21 g | ClC=1C=C(C=CC1)N1CCN(CC1)CC(CNC1C(CC2=C(C=C(C(=C12)O)C)C)(C)C)O | C26H36ClN3O2
